US07199243B2
A mixture of 3-[3-(1-ethoxycarbonyl-1-methyl-ethoxy)-phenyl]-piperidine-1-carboxylic acid 4-isopropyl-benzyl ester (6.23 g, 13.32 mmol), potassium carbonate (3.68 g, 26.64 mmol), methanol (100 mL) and water (20 mL) was heated at reflux for 3 h, cooled to room temperature and concentrated under reduced pressure. The resulting residue was taken up in water (250 mL), acidified with 1N aqueous hydrochloric acid and extracted with ethyl acetate (2×200 mL). The combined organic extracts were washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, filtered, concentrated under reduced pressure to provide 5.86 g (99%) of 3-[3-(1-carboxy-1-methyl-ethoxy)-phenyl]-piperidine-1-carboxylic acid 4-isopropyl-benzyl ester as a clear glassy solid.

reactant | 3-[3-(1-ethoxycarbonyl-1-methyl-ethoxy)-phenyl]-piperidine-1-carboxylic acid 4-isopropyl-benzyl ester | 13.32 mmol, 6.23 g | C(C)(C)C1=CC=C(COC(=O)N2CC(CCC2)C2=CC(=CC=C2)OC(C)(C)C(=O)OCC)C=C1 | C28H37NO5
reactant | potassium carbonate | 26.64 mmol, 3.68 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 100 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
product | 3-[3-(1-carboxy-1-methyl-ethoxy)-phenyl]-piperidine-1-carboxylic acid 4-isopropyl-benzyl ester | 5.86 g, 99% | C(C)(C)C1=CC=C(COC(=O)N2CC(CCC2)C2=CC(=CC=C2)OC(C)(C)C(=O)O)C=C1 | C26H33NO5
